US04952571
A mixture of sodium hydride (60% dispersion in oil, 10.9 g) and dimethyl carbonate (18.7 ml) in dry tetrahydrofuran (210 ml) was stirred and heated at reflux under an atmosphere of nitrogen. A solution of 2-acetyl-5,6-dimethoxy-benzo[b]thiophene (21.0 g) in dry tetrahydrofuran (315 ml) was added dropwise over 30 min. Shortly after the addition of the benzothiophene solution had commenced potassium hydride (22.7% dispersion in oil) was added to initiate the reaction (sufficient to cause a permanent pink colour). When the evolution of gas had ceased (90 min.) the reaction mixture was cooled in an ice bath and treated with glacial acetic acid (34 ml). The resultant yellow solution was poured into ice-cold water (2 liter), stirred, and the yellow solid was filtered, washed with n-hexane and dried at 50° C. under vacuum to give 3-(5,6-dimethoxybenzo[b]thien-2-yl)-3-oxo-propanoic acid methyl ester (22.0 g). A portion crystallized from dichloromethane/diethyl ether had m.p. 129°-130° C.

reactant | sodium hydride | 10.9 g | [H-].[Na+]
reactant | dimethyl carbonate | 18.7 ml | C(OC)(OC)=O | C3H6O3
reactant | 2-acetyl-5,6-dimethoxy-benzo[b]thiophene | 21.0 g | C(C)(=O)C1=CC2=C(S1)C=C(C(=C2)OC)OC | C12H12O3S
reactant | benzothiophene | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | potassium hydride | [H-].[K+]
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 315 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 34 ml | C(C)(=O)O | C2H4O2
product | 3-(5,6-dimethoxybenzo[b]thien-2-yl)-3-oxo-propanoic acid methyl ester | 22.0 g | COC(CC(=O)C1=CC2=C(S1)C=C(C(=C2)OC)OC)=O | C14H14O5S
